US08492538B1
The above chiral salt, an organic solvent, an alkaline aqueous medium, and dibutyl 1,6-dicarboxy-hexane are mixed in a vessel. 1.0 equivalents (based upon the moles and equivalents of dibutyl 1,6-dicarboxy-hexane) of alkalizing agent, such as sodium hydroxide, is added, optionally with heating. The hydrolysis is allowed to proceed to completion. The mono-esterified butyl 1,6-dicarboxy-hexane is contained within the aqueous phase. The phases are separated. The aqueous phase is acidified with dilute acid to pH 4.5 with cooling. The butyl 1,6-dicarboxy-hexane is isolated by filtration or extraction with diethyl ether.

reactant | dibutyl 1,6-dicarboxy-hexane | C(CCC)C(CCCCCC(=O)O)(C(=O)O)CCCC | C16H30O4
reactant | sodium hydroxide | [OH-].[Na+]
product | butyl 1,6-dicarboxy-hexane | C(CCC)C(CCCCCC(=O)O)C(=O)O | C12H22O4
